US05057535
A solution of 1-(4-methoxy-5,6,7,8-tetrahydro-1-naphthyl)-2-butene-1-one (3.0 g) and pyrrolidine (1.85 g) in ethanol (100 ml) was stirred for 3 hours at room temperature. The mixture was evaporated in vacuo to give the residue. The residue was partitioned into water and ethyl ether The ethyl ether was washed with water. The organic layer was extracted with 2N hydrochloric acid. The aqueous layer was neutralized with ammonia water and then extracted with ethyl ether. The ethyl ether was dried over anhydrous magnesium sulfate and then filtered. The filtrate was evaporated in vacuo to give 1-(4-methoxy-5,6,7,8-tetrahydro-1-naphthyl)-3-methyl-3-pyrrolidino-1-propanone (2.31 g, Yield: 53.6%) as an oil.

reactant | 1-(4-methoxy-5,6,7,8-tetrahydro-1-naphthyl)-2-butene-1-one | 3.0 g | COC1=CC=C(C=2CCCCC12)C(C=CC)=O | C15H18O2
reactant | pyrrolidine | 1.85 g | N1CCCC1 | C4H9N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-(4-methoxy-5,6,7,8-tetrahydro-1-naphthyl)-3-methyl-3-pyrrolidino-1-propanone | 2.31 g, Yield: 53.6% | COC1=CC=C(C=2CCCCC12)C(CC(N1CCCC1)C)=O | C19H27NO2
